US06875765B2
To a solution of (S)-3-(4-amino-2-benzyloxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester from Route J step 7 (0.958 g, 1.88 mmol), in anhydrous methylene chloride (20 mL) at 0° C. was added triethylamine (1.32 mL, 9.42 mmol) followed by 4-chlorobutyryl chloride (0.32 ml, 2.83 mmol) dropwise. The reaction was allowed to stir at 0° C. for 1 h and then allowed to slowly warm to room temperature overnight. The methylene chloride was evaporated and the reaction mixture was dissolved in ethyl acetate and water. The organic layer was collected and washed with 10% sulfuric acid, brine, dried over magnesium sulfate, and concentrated to yield (S)-3-[2-benzyloxy-4-(4-chloro-butanoylamino)-benzenesulfonylamino]-4,4-diethoxy-butyric acid tert-butyl ester (1.32 g) as a crude brown oil. MS (APCI) m/z 611.3 (M−1).

reactant | (S)-3-(4-amino-2-benzyloxy-benzenesulfonylamino)-4,4-diethoxy-butyric acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)N)OCC1=CC=CC=C1)=O | C25H36N2O7S
reactant | triethylamine | 9.42 mmol, 1.32 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobutyryl chloride | 2.83 mmol, 0.32 ml | ClCCCC(=O)Cl | C4H6Cl2O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-[2-benzyloxy-4-(4-chloro-butanoylamino)-benzenesulfonylamino]-4,4-diethoxy-butyric acid tert-butyl ester | 1.32 g | C(C)(C)(C)OC(C[C@@H](C(OCC)OCC)NS(=O)(=O)C1=C(C=C(C=C1)NC(CCCCl)=O)OCC1=CC=CC=C1)=O | C29H41ClN2O8S
